US06437146B1
To a mixture of (±)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoic acid (300 mg, 0.690 mmol) and tyramine (123 mg, 0.897 mmol) in DMF (5 ml) was added 1-hydroxybenzotriazole (140 mg, 1.04 mmol) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (265 mg, 1.38mmol). After stirring the resulting mixture at room temperature for 3 hours, the reaction mixture was diluted with EtOAc (30 ml), washed with 1N-hydrochloric acid, water, saturated sodium hydrogencarbonate solution, water and brine successively, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:EtOAc, 3:2 elution) to give (±)-N-[2-(4-hydroxyphenyl)ethyl]-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzamide (358.4 mg, 94%).

reactant | (±)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoic acid | 0.690 mmol, 300 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C(=O)O)C=CC1 | C29H25NO3
reactant | tyramine | 0.897 mmol, 123 mg | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | 1-hydroxybenzotriazole | 1.04 mmol, 140 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 1.38mmol, 265 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | (±)-N-[2-(4-hydroxyphenyl)ethyl]-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzamide | 358.4 mg, 94% | OC1=CC=C(C=C1)CCNC(C1=CC(=CC=C1)CC1C(=CCCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H34N2O3
